US07419984B2
To an argon saturated solution of N-(4,6-dichloro-pyrimidin-2-yl)-methyl-amine (200 mg, 1.1 mmol), 5-chloro-2-ethoxy-phenylboronic acid (248 mg, 1.21 mmol) and palladium acetate (38 mg, 0.16 mmol) in dimethyl ethylene glycol (20 ml) was added a solution of sodium carbonate (240 mg, 2.2 mmol) in water (5 ml) followed by triphenylphosphine (66 mg, 0.33 mmol). After stirring at 70° C. under an argon atmosphere for 60 hours, the mixture was filtered through a pad of celite under suction and the filtrate was dried over magnesium sulfate. Evaporation of the solvent under reduced pressure provided [4-chloro-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-2-yl]-methyl-amine (300 mg, 90% yield).

reactant | N-(4,6-dichloro-pyrimidin-2-yl)-methyl-amine | 1.1 mmol, 200 mg | ClC1=NC(=NC(=C1)Cl)NC | C5H5Cl2N3
reactant | 5-chloro-2-ethoxy-phenylboronic acid | 1.21 mmol, 248 mg | ClC=1C=CC(=C(C1)B(O)O)OCC | C8H10BClO3
reactant | sodium carbonate | 2.2 mmol, 240 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 0.33 mmol, 66 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethyl ethylene glycol | 20 ml | CC(C(C)O)O | C4H10O2
solvent | water | 5 ml | O | H2O
catalyst | palladium acetate | 0.16 mmol, 38 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [4-chloro-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-2-yl]-methyl-amine | 300 mg, 90% yield | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)OCC)NC | C13H13Cl2N3O
